US04987132
Sodium borohydride (500 mg) was added to a mixture of 1.6 g of ethyl 1-piperazinecarboxylate, 1.3 g of p-tolualdehyde and 30 ml of ethanol, and the mixture was stirred overnight at room temperature. The reaction mixture was concentrated under reduced pressure, 50 ml of water was added, and the resultant mixture was extracted with ethyl acetate. The ethyl acetate extract was then extracted with diluted hydrochloric acid. The diluted hydrochloric acid extract was washed with ethyl acetate, made alkaline with sodium hydrogen carbonate and extracted with ethyl acetate. The extract was washed with water, dried over anhydrous potassium carbonate and concentrated under reduced pressure to give 0.8 g of ethyl 4-p-tolylmethyl-1-piperazinecarboxylate as an oil. This was deprived of the carboethoxy group by the method described in Reference Example 38 to give 0.36 g of 1-ptolylmethylpiperazine as an oil.

reactant | Sodium borohydride | 500 mg | [BH4-].[Na+]
reactant | ethyl 1-piperazinecarboxylate | 1.6 g | N1(CCNCC1)C(=O)OCC | C7H14N2O2
reactant | p-tolualdehyde | 1.3 g | C1(=CC=C(C=C1)C=O)C | C8H8O
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | ethyl 4-p-tolylmethyl-1-piperazinecarboxylate | 0.8 g | C1(=CC=C(C=C1)CN1CCN(CC1)C(=O)OCC)C | C15H22N2O2
